US05869519
N-[(1,3-Dimethylindole-2-Carbonyl)Valinyl]-3-Amino-4-Oxo-5-(2',6'-Dichlorobenzyloxy)Pentanoic Acid, t-Butyl Ester
Dess-Martin periodinane (195 mg) was added as a solid to a solution of N-[(1,3-dimethylindole-2-carbonyl)valinyl]-3-amino-4-hydroxy-5-(2',6'-dichlorobenzyloxy)pentanoic acid, t-butyl ester (96 mg) in DMSO (1.5 ml). The resulting solution was stirred under a nitrogen atmosphere at room temperature for thirty minutes, then partitioned between EtOAc and water. The organic phase was washed with water (2×) and brine, dried (Na2SO4), and concentrated to give a white solid (83 mg). Flash chromotographic purification with EtOAc/hexanes (1:1) afforded the title product as a white solid (54 mg). TLC (EtOAc/hexanes; 1:1, silica gel): Rf =0.52.

reactant | Dess-Martin periodinane | 195 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | N-[(1,3-dimethylindole-2-carbonyl)valinyl]-3-amino-4-hydroxy-5-(2',6'-dichlorobenzyloxy)pentanoic acid, t-butyl ester | 96 mg | CN1C(=C(C2=CC=CC=C12)C)C(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(COCC1=C(C=CC=C1Cl)Cl)O | C32H41Cl2N3O6
solvent | DMSO | 1.5 ml | CS(=O)C | C2H6OS
product | N-[(1,3-Dimethylindole-2-Carbonyl)Valinyl]-3-Amino-4-Oxo-5-(2',6'-Dichlorobenzyloxy)Pentanoic Acid, t-Butyl Ester | 83 mg | CN1C(=C(C2=CC=CC=C12)C)C(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(COCC1=C(C=CC=C1Cl)Cl)=O | C32H39Cl2N3O6
